US08685986B2
1-(b) tert-Butyl[(5-bromo-6-methylpyridin-2-yl)tert-butoxycarbonylamino]acetate
To a solution of tert-butyl[tert-butoxycarbonyl(6-methylpyridin-2-yl)amino]-acetate (477 mg, 1.48 mmol) obtained in Reference Example 1-(a) in acetonitrile (3 ml) was added NBS (398 mg, 2.24 mmol), followed by stirring at 40° C. for 3 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=20:1→5:1 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (565 mg) as a white solid. (Yield: 95%)

reactant | tert-butyl[tert-butoxycarbonyl(6-methylpyridin-2-yl)amino]-acetate | 1.48 mmol, 477 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C)C(=O)OC(C)(C)C)=O | C17H26N2O4
reactant | NBS | 2.24 mmol, 398 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | tert-Butyl[(5-bromo-6-methylpyridin-2-yl)tert-butoxycarbonylamino]acetate | 565 mg, Yield: 95% | C(C)(C)(C)OC(CN(C(=O)OC(C)(C)C)C1=NC(=C(C=C1)Br)C)=O | C17H25BrN2O4
